US08981084B2
(4-(1H-Benzo[d]imidazol-2-yl)piperazin-1-yl)(3-(5-(trifluoromethyl)-1,2,4-oxadiazol-3-yl)phenyl)methanone
This compound was synthesized from 2-(piperazin-1-yl)-1H-benzo[d]imidazole and 3-(5-(trifluoromethyl)-1,2,4-oxadiazol-3-yl)benzoic acid as described for example 37 step 3 (100 mg, yield 23%). 1H NMR (400 MHz, DMSO-d6) δ 11.49 (br s, 1H), 8.19-8.17 (d, J=8.5 Hz, 1H), 8.11 (s, 1H), 7.76-7.72 (m, 2H), 7.21 (m, 2H), 6.94 (m, 2H), 3.80 (m, 2H), 3.63-3.52 (m, 6H). MS (ESI) m/z: Calculated for C21H17F3N6O2: 442.14. found: 441.4 (M−H)−

reactant | 2-(piperazin-1-yl)-1H-benzo[d]imidazole | N1(CCNCC1)C1=NC2=C(N1)C=CC=C2 | C11H14N4
reactant | 3-(5-(trifluoromethyl)-1,2,4-oxadiazol-3-yl)benzoic acid | FC(C1=NC(=NO1)C=1C=C(C(=O)O)C=CC1)(F)F | C10H5F3N2O3
product | (4-(1H-Benzo[d]imidazol-2-yl)piperazin-1-yl)(3-(5-(trifluoromethyl)-1,2,4-oxadiazol-3-yl)phenyl)methanone | yield 23% | N1C(=NC2=C1C=CC=C2)N2CCN(CC2)C(=O)C2=CC(=CC=C2)C2=NOC(=N2)C(F)(F)F | C21H17F3N6O2
